US05232940
A stirred solution of 4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (1.5 g) in dry tetrahydrofuran cooled to -78° C. was treated with a solution of n-butyl lithium (2.6 M in hexane, 1.71 ml) dropwise under nitrogen. The temperature was kept below -65° C. during the addition, and the resultant solution kept at -78° C. for 1 hour. A solution of trimethylsilyl chloride (0.56 ml) in dry tetrahydrofuran (2 ml) was then added, dropwise, during 2 minutes. The mixture was allowed to reach room temperature over 2 hours, left overnight and evaporated in vacuo to give a pale yellow solid. This was dissolved in dichloromethane, washed with water, dried over anhydrous magnesium sulphate, and evaporated in vacuo. The product was recrystallized from hexane to give 4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethyl-5-trimethylsilylpyrazole as white crystals, m.p. 108°-110° C.

reactant | 4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 1.5 g | C(#N)C=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F | C12H3Cl2F6N3
reactant | n-butyl lithium | 2.6 M, 1.71 ml | C(CCC)[Li]
reactant | trimethylsilyl chloride | 0.56 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethyl-5-trimethylsilylpyrazole | C(#N)C=1C(=NN(C1[Si](C)(C)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F | C15H11Cl2F6N3Si
